US08623859B2
5-({[(4-bromo-2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-N-methylfuran-3-carboxamide
To a stirred solution of 5-({[(4-bromo-2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (54 mg, 0.12 mmol), EDCI (29 mg, 0.15 mmol) and HOBt (20 mg, 0.15 mmol) in DMF (3 mL) was added a solution of 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylethanamine.HCl (29 mg, 0.11 mmol) and DIPEA (0.084 mL, 0.48 mmol) in DMF (2 mL). The reaction was stirred at ambient temperature for 18 h, then diluted with EtOAc. The solution was washed with water, saturated aqueous NaHCO3 and 1:1 saturated brine:water. The organic extracts were dried over MgSO4, and solvent was removed in vacuo. A portion of the crude product was purified using prep method C.

reactant | 5-({[(4-bromo-2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.12 mmol, 54 mg | BrC1=CC(=C(C(=C1)Cl)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)Cl | C13H10BrCl2NO5S
reactant | EDCI | 0.15 mmol, 29 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.15 mmol, 20 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylethanamine | N1C(=NCC1)C1=CC=C(C=C1)CCNC | C12H17N3
reactant | HCl | 0.11 mmol, 29 mg | Cl | ClH
reactant | DIPEA | 0.48 mmol, 0.084 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-({[(4-bromo-2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-N-methylfuran-3-carboxamide | BrC1=CC(=C(C(=C1)Cl)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)N(C)CCC1=CC=C(C=C1)C=1NCCN1)Cl | C25H25BrCl2N4O4S
